US04218458
A mixture of 7 parts of methyl N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylcarbamimidothioate monohydroiodide and 30 parts of hydrochloric acid solution 10% is stirred and refluxed for 1.50 hours. The reaction mixture is cooled and neutralized with sodium hydrogen carbonate. The product is extracted with 1,1'-oxybisethane. The extract is dried, filtered and saturated with hydrogen chloride. The precipitated oil solidifies upon scratching. The product is filtered off and crystallized from a mixture of 2-propanol and 2,2'-oxybispropane, yielding 4 parts (86%) of 5-(4-methoxyphenyl)-2-(methylthio)-1-propyl-1H-imidazole monohydrochloride; mp. 149.2° C.

reactant | methyl N-[2-(4-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-N'-propylcarbamimidothioate monohydroiodide | I.COC1=CC=C(C=C1)C1(OCCO1)CNC(=NCCC)SC
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 5-(4-methoxyphenyl)-2-(methylthio)-1-propyl-1H-imidazole monohydrochloride | 86% | Cl.COC1=CC=C(C=C1)C1=CN=C(N1CCC)SC | InChI=1S/C14H18N2OS.ClH/c1-4-9-16-13(10-15-14(16)18-3)11-5-7-12(17-2)8-6-11;/h5-8,10H,4,9H2,1-3H3;1H
